US08222248B2
A mixture of 4-amino-N-(3,4-dimethyl-phenyl)-3-(2-hydroxy-ethylamino)-benzamide (0.1 mL in 0.2 M DMSO solution), 4-chlorobenzaldehyde (0.1 mL in 0.2 M toluene solution) and FeCl3 (0.05 mL in 0.02 M THF solution) was stirred in open air at ambient temperature overnight. The mixture was then diluted by MeOH and the whole was loaded onto a solid phase extraction (SPE) cartridge that contained strong cation exchange (SCX) (1 g media in 6 mL cartridge, United Chemical Technology). Wash-to-waste (5 mL MeOH) was followed by elute-to-collect (5 mL 20:2:1 ethyl acetate-MeOH-Et3N) and, after evaporation of volatiles, the crude was further purified by silica gel column chromatography to give 2-(4-chlorophenyl)-3-(2-hydroxy-ethyl)-3H-benzoimidazole-5-carboxylicacid (3,4-dimethylphenyl)-amide: MS (m/z) 420 (M+1).

reactant | 4-amino-N-(3,4-dimethyl-phenyl)-3-(2-hydroxy-ethylamino)-benzamide | 0.2 M, 0.1 mL | NC1=C(C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=C1)NCCO | C17H21N3O2
reactant | 4-chlorobenzaldehyde | 0.2 M, 0.1 mL | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | MeOH | CO | CH4O
product | 2-(4-chlorophenyl)-3-(2-hydroxy-ethyl)-3H-benzoimidazole-5-carboxylicacid (3,4-dimethylphenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(N=C(N2CCO)C2=CC=C(C=C2)Cl)C=C1 | C24H22ClN3O2
